US04285944
To a mixture of 21.0 g. (0.133 mole) of 4-(1-hydroxyethyl)-1-methyl-cyclohexene, 23 mg. glacial acetic acid and 26 ml. n-butylnitrite at 0° C. there is added dropwise a solution of 5 ml. concentrated hydrochloric acid and 5 ml. glacial acetic acid. After two additional hours while maintaining the temperature at 0° C., 500 ml. water is added and the solution is extracted with diethyl ether. These ether extracts are washed with water and brine and dried over magnesium sulfate. The magnesium sulfate is removed by filtration and the solution evaporated to give 2-chloro-5-(1-hydroxyethyl)-2-methyl-cyclohexanone oxime. To this compound is added 12.0 g. anhydrous sodium acetate and 50 ml. glacial acetic acid. This mixture is heated at 100° for one hour and poured into 250 ml. water. After sitting for several hours, the aqueous solution is extracted several times with ether and the combined ether extracts are washed with brine and sodium bicarbonate, dried over magnesium sulfate, filtered and evaporated to give 1,3-dimethyl-2-oxabicyclo[2,2,2]octan-6-one-oxime.

reactant | 4-(1-hydroxyethyl)-1-methyl-cyclohexene | 0.133 mole | OC(C)C1CC=C(CC1)C | C9H16O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | n-butylnitrite | C(CCC)ON=O | C4H9NO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-chloro-5-(1-hydroxyethyl)-2-methyl-cyclohexanone oxime | ClC1(C(CC(CC1)C(C)O)=NO)C | C9H16ClNO2
